US04769472
3-(2-Hydroxyphenyl)thieno[2,3-d]isoxazole
To a solution of 23 g of 3-(2-methoxyphenyl)thieno[2,3-d]isoxazole in 450 ml of dichloromethane was added a boron tribromide solution in dichloromethane (150 ml, 1M solution) over one hour. The reaction mixture was stirred for an additional one hour at room temperature and then poured over 600 ml of ice water. A precipitate was filtered off and washed with 50% ether/ethyl acetate. The aqueous phase was also extracted with 50% ether/ethyl acetate and the combined solvent solution was washed with water and dried over anhydrous magnesium sulfate. Evaporation of the solvent solution left 17 g of a solid which was passed through a silica gel column packed in hexane and eluted with 50% ether/hexane. The resultant solid was recrystallized from ether/hexane to give 15 g of a solid, m.p. 121°-123° C.

reactant | 3-(2-methoxyphenyl)thieno[2,3-d]isoxazole | 23 g | COC1=C(C=CC=C1)C1=NOC2=C1SC=C2 | C12H9NO2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1M, 150 ml | ClCCl | CH2Cl2
product | 3-(2-Hydroxyphenyl)thieno[2,3-d]isoxazole | 15 g | OC1=C(C=CC=C1)C1=NOC2=C1SC=C2 | C11H7NO2S
